US04340740
451 mg of alpha-(methylthio)-alpha-(m-phenoxyphenyl)propionitrile was dissolved in 1 ml of anhydrous methanol, and 1.1 ml of a 2.3 M methanol solution of sodium methanethiolate was added. The mixture was stirred at room temperature for 2 hours. An aqueous solution of ammonium chloride (2 g/10 ml) was added, and the mixture was extracted with 10 ml of ether three times. The extract was washed with 15 ml of water three times, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; hexane and methylene chloride) to afford 316 mg (yield 83%) of alpha-(m-phenoxyphenyl)-propionitrile as a colorless oil.

reactant | alpha-(methylthio)-alpha-(m-phenoxyphenyl)propionitrile | 451 mg | CSC(C#N)(C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C16H15NOS
reactant | sodium methanethiolate | C[S-].[Na+]
reactant | ammonium chloride | 10 ml, 2 g | [Cl-].[NH4+]
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 2.3 M | CO | CH4O
product | alpha-(m-phenoxyphenyl)-propionitrile | 316 mg, yield 83% | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C#N)C | C15H13NO
